US05194440
1. 5-Methyl- 2-(4-nitrobenzyl)-1,2,5-thiadiazolidine-1,1-dioxide
To a stirred suspension of anhydrous potassium carbonate (14.49 g, 104.8 mmol) in anhydrous dimethylformamide (80 ml) was added dropwise over 4 minutes a solution of 2-methyl-1,2,5-thiadiazolidine-1,1-dioxide (14 g, 102.8 mmol) in anhydrous dimethylformamide (40 ml), under nitrogen. After 5 minutes, solid 4-nitrobenzyl bromide (22.43 g, 103.8 mmol) was added in one portion and stirring was continued at room temperature for 5 hours. Water (200 ml) was added and products were extracted into ethyl acetate (3×150 ml). The combined organic phases were washed with brine (1×50 ml), dried (Na2SO4) and concentrated. The crude residue was crystallized from ethyl acetate-hexane (70:30) to give 18.31 g (67%) of the title compound as pale yellow crystals. Purification of the mother liquors by flash chromatography (silica gel, hexane-ethyl acetate, 30:70) afforded a further 5.1 g (18.2%) of required product; mp 105°-107° C.; δH (250 MHz, CDCl3) 8.22 (2H, d, J=8.7 Hz, Ar--H), 7.57 (2H, d, J=8.7 Hz, Ar--H), 4.32 (2H, s, Ar--CH2 --), 3.36--3.21 (4H, m, N--CH2CH2 --N), 2.80 (3H, s, --NMe); m/z (CI) 270 (M+ -1).

reactant | potassium carbonate | 104.8 mmol, 14.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methyl-1,2,5-thiadiazolidine-1,1-dioxide | 102.8 mmol, 14 g | CN1S(NCC1)(=O)=O | C3H8N2O2S
reactant | 4-nitrobenzyl bromide | 103.8 mmol, 22.43 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | Water | 200 ml | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 5-Methyl- 2-(4-nitrobenzyl)-1,2,5-thiadiazolidine-1,1-dioxide | 18.31 g, 67% | CN1CCN(S1(=O)=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C10H13N3O4S
